* These models are only for 5V.
*
* quad 2-input NAND gate
*
.subckt 74hc00a A0 B0 Y0 A1 B1 Y1 0 Y2 A2 B2 Y3 A3 B3 VCC
XU1 A0 B0 Y0 VCC 0 74HC00 VCC=5 SPEED=1.0 TRIPDT=1e-9
XU2 A1 B1 Y1 VCC 0 74HC00 VCC=5 SPEED=1.0 TRIPDT=1e-9
XU3 A2 B2 Y2 VCC 0 74HC00 VCC=5 SPEED=1.0 TRIPDT=1e-9
XU4 A3 B3 Y3 VCC 0 74HC00 VCC=5 SPEED=1.0 TRIPDT=1e-9
.lib 74hc.lib
.ends

*
* hex inverter
*
.subckt 74hc04a A0 Y0 A1 Y1 A2 Y2 0 Y3 A3 Y4 A4 Y5 A5 VCC
XU1 A0 Y0 VCC 0 74HC04 VCC=5 SPEED=1.0 TRIPDT=1e-9
XU2 A1 Y1 VCC 0 74HC04 VCC=5 SPEED=1.0 TRIPDT=1e-9
XU3 A2 Y2 VCC 0 74HC04 VCC=5 SPEED=1.0 TRIPDT=1e-9
XU4 A3 Y3 VCC 0 74HC04 VCC=5 SPEED=1.0 TRIPDT=1e-9
XU5 A4 Y4 VCC 0 74HC04 VCC=5 SPEED=1.0 TRIPDT=1e-9
XU6 A5 Y5 VCC 0 74HC04 VCC=5 SPEED=1.0 TRIPDT=1e-9
.lib 74hc.lib
.ends

*
* quad 2-input OR gate
*
.subckt 74hc32a A0 B0 Y0 A1 B1 Y1 0 Y2 A2 B2 Y3 A3 B3 VCC
XU1 A0 B0 Y0 VCC 0 74HC32 VCC=5 SPEED=1.0 TRIPDT=1e-9
XU2 A1 B1 Y1 VCC 0 74HC32 VCC=5 SPEED=1.0 TRIPDT=1e-9
XU3 A2 B2 Y2 VCC 0 74HC32 VCC=5 SPEED=1.0 TRIPDT=1e-9
XU4 A3 B3 Y3 VCC 0 74HC32 VCC=5 SPEED=1.0 TRIPDT=1e-9
.lib 74hc.lib
.ends


*
* quad 2-input XOR gate
*
.subckt 74hc86a A0 B0 Y0 A1 B1 Y1 0 Y2 A2 B2 Y3 A3 B3 VCC
XU1 A0 B0 Y0 VCC 0 74HC86 VCC=5 SPEED=1.0 TRIPDT=1e-9
XU2 A1 B1 Y1 VCC 0 74HC86 VCC=5 SPEED=1.0 TRIPDT=1e-9
XU3 A2 B2 Y2 VCC 0 74HC86 VCC=5 SPEED=1.0 TRIPDT=1e-9
XU4 A3 B3 Y3 VCC 0 74HC86 VCC=5 SPEED=1.0 TRIPDT=1e-9
.lib 74hc.lib
.ends
