* Bussed 4-Resistor Array Model
* Pins: 1 (Common), 2, 3, 4, 5, 6, 7, 8, 9
.SUBCKT RES_ARRAY_BUSSED 1 2 3 4 5 6 7 8 9
R1 1 2 10k
R2 1 3 10k
R3 1 4 10k
R4 1 5 10k
R5 1 6 10k
R6 1 7 10k
R7 1 8 10k
R8 1 9 10k
.ENDS RES_ARRAY_BUSSED